US07576099B2
Ethyl 3-(2-hydroxy-2-methylpropoxy)-4-bromobenzoate
Ethyl 4-bromo-3-hydroxybenzoate (1.5 g, 6.12 mmol), potassium carbonate (5.07 g, 36.72 mmol) and 1-chloro-2-methylpropan-2-ol (0.75 mL, 7.34 mmol) were placed in 50 mL DMF and the reaction was heated at 80° C. for 18 h. The mixture was cooled and partitioned between EtOAc and water. The organic layer was separated, washed with water, brine, dried (Na2SO4), filtered, and the filtrate was concentrated under vacuum to an oil. Purification by column chromatography on silica gel using EtOAc/hexane (0-50%) gave the product (0.5 g, 26%) as a yellow oil.

reactant | Ethyl 4-bromo-3-hydroxybenzoate | 6.12 mmol, 1.5 g | BrC1=C(C=C(C(=O)OCC)C=C1)O | C9H9BrO3
reactant | potassium carbonate | 36.72 mmol, 5.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-2-methylpropan-2-ol | 7.34 mmol, 0.75 mL | ClCC(C)(O)C | C4H9ClO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-(2-hydroxy-2-methylpropoxy)-4-bromobenzoate | 0.5 g, 26% | OC(COC=1C=C(C(=O)OCC)C=CC1Br)(C)C | C13H17BrO4
